US07528137B2
b) (1-{[[1-(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-(1-p-tolyl-methanoyl)-amino]-methyl}-4-benzyloxycarbonylamino-butyl)-carbamic acid tert-butyl ester
To a solution of ((S)-1-{[(R)-1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propylamino]-methyl}-4-benzyloxycarbonylamino-butyl)-carbamic acid tert-butyl ester (250 mg, 0.37 mmol) in toluene (4 mL) was added triethylamine (0.10 mL, 0.74 mmol) followed by dropwise addition of p-toluoyl chloride (0.049 mL, 0.37 mmol). The reaction mixture was heated to 80° C. for 18 h, then reflux for 4 h. The reaction mixture was allowed to cool to room temperature, quenched with saturated aqueous NaHCO3 (10 mL) and diluted with CH2Cl2 (10 mL). The extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (3:1 hexanes:ethyl acetate) to provide 235 mg (79%) of the title compound as a pale yellow powder. MS(ES+) m/e 794.2 [M+H]+.

reactant | ((S)-1-{[(R)-1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propylamino]-methyl}-4-benzyloxycarbonylamino-butyl)-carbamic acid tert-butyl ester | 0.37 mmol, 250 mg | C(C)(C)(C)OC(N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)CN[C@H](C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)=O | C37H46ClN5O5
reactant | triethylamine | 0.74 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluoyl chloride | 0.37 mmol, 0.049 mL | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | (1-{[[1-(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-(1-p-tolyl-methanoyl)-amino]-methyl}-4-benzyloxycarbonylamino-butyl)-carbamic acid tert-butyl ester | 235 mg, 79% | C(C)(C)(C)OC(NC(CCCNC(=O)OCC1=CC=CC=C1)CN(C(=O)C1=CC=C(C=C1)C)C(C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)=O | C45H52ClN5O6
